US08754085B2
2,3-Bis(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[2,3-b]pyrazine
The title compound was prepared from 1,2-bis(4-(trifluoromethyl)phenyl)ethane-1,2-dione (this may be prepared according to the procedure of Bioorganic & Medicinal Chemistry Letters (2007), 17(21), 5825-5830) and pyridine-2,3-diamine analogously to Intermediate E;

reactant | 1,2-bis(4-(trifluoromethyl)phenyl)ethane-1,2-dione | FC(C1=CC=C(C=C1)C(C(=O)C1=CC=C(C=C1)C(F)(F)F)=O)(F)F | C16H8F6O2
reactant | pyridine-2,3-diamine | N1=C(C(=CC=C1)N)N | C5H7N3
product | 2,3-Bis(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[2,3-b]pyrazine | FC(C1=CC=C(C=C1)C=1N=C2C(=NC1C1=CC=C(C=C1)C(F)(F)F)NCCC2)(F)F | C21H15F6N3
